US07109229B2
(b) 3-(5-Methoxy-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione
To a solution of 2-(1-methyl-1H-indol-7-yl)-acetamide (0.544 g, 2.89 mmol) and (5-methoxy-1H-indol-3-yl)-oxo-acetic acid methyl ester (0.648 g, 2.81 mmol) in DMF (40 mL) under N2 was added a 1.0 M solution of potassium-tert-butoxide in THF (9.8 mL, 9.8 mmol) dropwise over 5 minutes. The mixture was stirred 8 h at room temperature and then heated at 65–70° C. for 15 h. The mixture was cooled to room temperature, quenched with 1N HCl (excess) and poured into EtOAc. The organic layer was separated, washed with water (3×), saturated aq NaHCO3, and brine, dried (MgSO4), filtered and concentrated to ˜30 mL. Upon standing 4 h, a bright red solid precipitated which was isolated by filtration and dried under vacuum at 80–100° C. overnight affording the title compound (0.421 g, 41%). 1H NMR (400 MHz, DMSO-d6) 11.81 (br s, 1H), 11.80 (s, 1H), 8.06 (d, J=3.1 Hz, 1H), 7.58, dd, J=7.5, 1 Hz, 1H), 7.31 (d, J=3 Hz, 1H), 7.22 (d, J=9 Hz, 1H), 6.93 (dd, J=7.5 Hz, 1H), 6.81 (d, J=7.5 Hz, 1H), 6.53 (dd, J=9, 2.5 Hz, 1H), 6.50 (d, J=3 Hz, 1H), 5.80 (d, J=2.5 Hz, 1H), 3.80 (s, 3H), 2.70 (s, 3H). MS (electrospray, m/z) 372.1 (M++1), 370 (M−−1). HRMS 372.1345 (M++1, calcd for C22H18N3O3 372.1348). Anal. Calcd for C22H17N3O3: C, 71.15; H, 4.61; 11.31. Found: C, 71.05; H, 4.59; N, 11.17.

reactant | 2-(1-methyl-1H-indol-7-yl)-acetamide | 2.89 mmol, 0.544 g | CN1C=CC2=CC=CC(=C12)CC(=O)N | C11H12N2O
reactant | (5-methoxy-1H-indol-3-yl)-oxo-acetic acid methyl ester | 2.81 mmol, 0.648 g | COC(C(=O)C1=CNC2=CC=C(C=C12)OC)=O | C12H11NO4
reactant | potassium-tert-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 9.8 mmol, 9.8 mL | C1CCOC1 | C4H8O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3-(5-Methoxy-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione | 0.421 g, 41% | COC=1C=C2C(=CNC2=CC1)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O | C22H17N3O3
